US04952580
A solution of 1.0 gram (0.004 mole) of the dipotassium salt of 3,5-dimercapto-1,2,4-thiadiazole in 35 ml of methyl ethyl ketone was stirred and 1.7 grams (0.009 mole) of 4-bromo-1,1,2-trifluoro-1-butene was added. The reaction mixture was heated under reflux for two hours then allowed to cool to ambient temperature where it stirred for 18 hours. The reaction mixture was concentrated under reduced pressure lo a residue. The residue was stirred in 25 ml of water and the mixture was extracted with two 25 ml portions of toluene. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to yield 1.1 grams of 3,5-di-(3,4,4-trifluoro-3-butenylthio)-1,2,4-thiadiazole as a liquid. The nmr spectrum was consistent with the proposed structure.

reactant | 3,5-dimercapto-1,2,4-thiadiazole | SC1=NSC(=N1)S | C2H2N2S3
reactant | 4-bromo-1,1,2-trifluoro-1-butene | 0.009 mole, 1.7 grams | BrCCC(=C(F)F)F | C4H4BrF3
solvent | methyl ethyl ketone | 35 ml | C(C)C(=O)C | C4H8O
product | 3,5-di-(3,4,4-trifluoro-3-butenylthio)-1,2,4-thiadiazole | 1.1 grams | FC(CCSC1=NSC(=N1)SCCC(=C(F)F)F)=C(F)F | C10H8F6N2S3
